US08008302B2
Step b) Formation of 3-carboxy-3,4-dideoxy-5-O-(phenylmethyl)-L-threo-pentonic acid
isopropyl 5-O-benzyl-3,4-dideoxy-3-(isopropoxycarbonyl)-L-threo-pentonate (7 g, 19.8 mmol) was taken in THF (50 mL), cooled to 0° C. and was treated with KOH (5.5 g, 99 mmol) in water (50 mL). The resulting mixture was stirred at RT for 3 h. THF was removed and the residue was taken in water. The aqueous layer was washed with ether (100 mL) and was acidified with an aqueous solution of HCl (1.5 N), then was then further extracted with EtOAc (2×100 mL), washed with water, dried over Na2SO4 and then concentrated to give the title product as colorless liquid (3.5 g).

reactant | isopropyl 5-O-benzyl-3,4-dideoxy-3-(isopropoxycarbonyl)-L-threo-pentonate | 19.8 mmol, 7 g | C(C1=CC=CC=C1)OCC[C@@H]([C@H](C(=O)OC(C)C)O)C(=O)OC(C)C | C19H28O6
reactant | KOH | 99 mmol, 5.5 g | [OH-].[K+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | water | 50 mL | O | H2O
product | 3-carboxy-3,4-dideoxy-5-O-(phenylmethyl)-L-threo-pentonic acid | 3.5 g | C(=O)(O)[C@H]([C@H](C(=O)O)O)CCOCC1=CC=CC=C1 | C13H16O6
